US07301036B2
Step A. Methyl 4-{[(4-chloro-2-nitrophenyl)amino]methyl}benzoate
To 4-chloro-2-nitroaniline (10 mmol, 1.73 g) in DMF (10 mL) was added NaH (11 mmol, 440 mg of 60% suspension in mineral oil). After 30 min the reaction vessel was placed in a water bath and methyl-4-(bromomethyl)benzoate (11 mmol, 2.52 g) was added (exothermic). The reaction mixture was allowed to stand at ambient temperature for 16 h, then poured into saturated NaHCO3, affording an orange precipitate which was filtered, washed with water and dried in vacuo. Purification by flash chromatography on silica eluting with 15% EtOAc in hexanes provided the product as an orange solid. LC-MS (ESI, Method C) 3.79 min, m/z 321.1 (M+1).

reactant | 4-chloro-2-nitroaniline | 10 mmol, 1.73 g | ClC1=CC(=C(N)C=C1)[N+](=O)[O-] | C6H5ClN2O2
reactant | NaH | 11 mmol, 440 mg | [H-].[Na+]
reactant | methyl-4-(bromomethyl)benzoate | 11 mmol, 2.52 g | COC(C1=CC=C(C=C1)CBr)=O | C9H9BrO2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | Methyl 4-{[(4-chloro-2-nitrophenyl)amino]methyl}benzoate | ClC1=CC(=C(C=C1)NCC1=CC=C(C(=O)OC)C=C1)[N+](=O)[O-] | C15H13ClN2O4
